US07592373B2
4.7.a. 3-(2,4-dichlorophenyl)propynoic acid-[3-methoxy-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from (2,4-dichlorophenyl)propynoic acid chloride and [2-(2-methoxy-4-aminophenoxy)ethyl]diethylamine. Yield: 0.25 g (31.2% of theory); melting point: 205° C.-207° C.; C22H24Cl2N2O3*HCl (M=471.81); calc.: molecular ion peak (M+H)+: 435/437/439; found: molecular ion peak (M+H)+: 435/437/439; Rf value: 0.6 (silica gel, dichloromethane/methanol/ammonia (50:10:0.1)).

reactant | (2,4-dichlorophenyl)propynoic acid chloride | ClC1=C(C=CC(=C1)Cl)C#CC(=O)Cl | C9H3Cl3O
reactant | [2-(2-methoxy-4-aminophenoxy)ethyl]diethylamine | COC1=C(OCCN(CC)CC)C=CC(=C1)N | C13H22N2O2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(2,4-dichlorophenyl)propynoic acid-[3-methoxy-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride | Cl.COC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=C(C=C(C=C1)Cl)Cl)=O | InChI=1S/C22H24Cl2N2O3.ClH/c1-4-26(5-2)12-13-29-20-10-9-18(15-21(20)28-3)25-22(27)11-7-16-6-8-17(23)14-19(16)24;/h6,8-10,14-15H,4-5,12-13H2,1-3H3,(H,25,27);1H
